US09108934B2
1-Hydroxy-1H-1,2,3-triazole-4-carboxylic acid was prepared by combining 1-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (2.0 g, 13 mmol), EtOH (25 mL, 430 mmol), and a pre-dissolved solution of LiOH monohydrate (1.6 g, 38.2 mmol) and water (10 mL, 600 mmol). The mixture was stirred at room temperature for 4 hours, then partially concentrated and acidified with HCl to cause precipitation. The solid was filtered and dried under vacuum to give 1.3 g of the desired acid.

reactant | 1-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 13 mmol, 2.0 g | C(C)OC(=O)C=1N=NN(C1)O | C5H7N3O3
reactant | EtOH | 430 mmol, 25 mL | CCO | C2H6O
reactant | water | 600 mmol, 10 mL | O | H2O
product | 1-Hydroxy-1H-1,2,3-triazole-4-carboxylic acid | ON1N=NC(=C1)C(=O)O | C3H3N3O3
